US07635700B2
A mixture of 3-(2-methyl-5-nitro-4-oxo-4H-quinazolin-3-yl)-piperidine-2,6-dione (250 mg) and Pd(OH)2 on carbon (110 mg) in DMF (40 mL) was shaken under hydrogen (50 psi) for 12 hours. The suspension was filtered through a pad of Celite and washed with DMF (10 mL). The filtrate was concentrated in vacuo and the resulting oil was purified by flash column chromatography (silica gel, methanol/methylene chloride) to give 3-(5-amino-2-methyl-4-oxo-4H-quinazolin-3-yl)-piperidine-2,6-dione as a white solid (156 mg, 69% yield): HPLC: Waters Symmetry C18, 5 μm, 3.9×150 mm, 1 mL/min, 240 nm, 10/90 CH3CN/0.1% H3PO4, 3.52 min (99.9%); mp: 293-295° C.; 1H NMR (DMSO-d6) δ 2.10-2.17 (m, 1H, CHH), 2.53 (s, 3H, CH3), 2.59-2.69 (m, 2H, CH2), 2.76-2.89 (m, 1H, CHH), 5.14 (dd, J=6, 11 Hz, 1H, NCH), 6.56 (d, J=8 Hz, 1H, Ar), 6.59 (d, J=8 Hz, 1H, Ar), 7.02 (s, 2H, NH2), 7.36 (t, J=8 Hz, 1H, Ar), 10.98 (s, 1H, NH); 13C NMR (DMSO-d6) δ20.98, 23.14, 30.52, 55.92, 104.15, 110.48, 111.37, 134.92, 148.17, 150.55, 153.62, 162.59, 169.65, 172.57; LCMS: MH=287; Anal. Calcd. for C14H14N4O3+0.3H2O: C, 57.65; H, 5.05; N, 19.21. Found: C, 57.50; H, 4.73; N, 19.00.

reactant | 3-(2-methyl-5-nitro-4-oxo-4H-quinazolin-3-yl)-piperidine-2,6-dione | 250 mg | CC1=NC2=CC=CC(=C2C(N1C1C(NC(CC1)=O)=O)=O)[N+](=O)[O-] | C14H12N4O5
solvent | DMF | 40 mL | CN(C)C=O | C3H7NO
catalyst | Pd(OH)2 on carbon | 110 mg | [OH-].[OH-].[Pd+2]
product | 3-(5-amino-2-methyl-4-oxo-4H-quinazolin-3-yl)-piperidine-2,6-dione | 156 mg, 69% yield | NC1=C2C(N(C(=NC2=CC=C1)C)C1C(NC(CC1)=O)=O)=O | C14H14N4O3
